US05075510
Preparation of 2-bromo-2-nitropropane-1,3-diol
An aqueous formaldehyde solution, 37% by weight H2CO, containing 75.81 g. aldehyde (0.934 mole) was adjusted to pH 6.5 with 0.5 M aqueous sodium bicarbonate. The entire reactor was placed in a room temperature water bath, and 65.29 g. bromonitromethane (0.467 mole) was added, with vigorous stirring, at such a rate that the reagent was immediately consumed. Aqueous sodium bicarbonate was added to the mixture by a pH-controlled feed pump so that the reaction zone pH was constantly maintained at a level between 6.0 and 6.4. When the bromonitromethane charge was complete, the temperature of the reaction mixture was elevated to 45° C. and held there for 1-12 hours, with constant stirring. The pH of the mixture was maintained in the preset range of 6.0 to 6.5 by the pH-controlled base feed. At the end of the heated stir time, the solution was allowed to cool to room temperature, whereupon the desired product precipitated as a crystalline solid, which was isolated by vacuum filtration. The yield of product was 86.8 g. (93%), with a purity assay of 99.8% (by GC of a derivatized sample).

reactant | formaldehyde | C=O | CH2O
reactant | sodium bicarbonate | 0.5 M | C([O-])(O)=O.[Na+]
reactant | bromonitromethane | 0.467 mole | BrC[N+](=O)[O-] | CH2BrNO2
product | 2-bromo-2-nitropropane-1,3-diol | BrC(CO)(CO)[N+](=O)[O-] | C3H6BrNO4
